US07435823B2
Step (a) Preparation of (6-hydroxy-5-methyl-naphthalen-2-yl)-carbamic acid benzyl ester
To a mixture containing 6-hydroxy-5-methyl-naphthalene-2-carboxylic acid (3.42 g, 12.7 mmol), was added dppa (3 mL, 14.0 mmol) and Et3N (3.5 mL, 25.4 mmol) in 50 mL of toluene. After stirring for 10 min, benzyl alcohol (3.9 mL, 38.1 mmol) was added to the mixture and heated at reflux for 4 h. The crude was purified by silica-gel column chromatography in EtOAc/Hexanes to give the titled compound as brown solid. MS (ESI neg. ion) m/z: 306 (M-H). Mass Calc'd for C19H17NO3: 307.12.

reactant | 6-hydroxy-5-methyl-naphthalene-2-carboxylic acid | 12.7 mmol, 3.42 g | OC=1C(=C2C=CC(=CC2=CC1)C(=O)O)C | C12H10O3
reactant | dppa | 14.0 mmol, 3 mL | C[C@@H]1C[C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@]4(CC(=C3)COC(=O)C)O)C)O)OC(=O)CC5=CC=CC=C5 | C30H36O7
reactant | Et3N | 25.4 mmol, 3.5 mL | CCN(CC)CC | C6H15N
reactant | benzyl alcohol | 38.1 mmol, 3.9 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (6-hydroxy-5-methyl-naphthalen-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC2=CC=C(C(=C2C=C1)C)O)=O | C19H17NO3
